US04005217
4-Methoxycarbonylamino-2-nitroaniline (30 g) was dissolved in toluene (300 ml) and the solution treated with bromoacetyl bromide (28.7 g). The mixture was refluxed for 3 hours and toluene (300 ml) was added. The hot mixture was filtered and the filtrate allowed to cool to give N-(4-methoxycarbonylamino-2-nitrophenyl)-2-bromoacetamide (30 g), m.p. 160°-162° C.

reactant | 4-Methoxycarbonylamino-2-nitroaniline | 30 g | COC(=O)NC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H9N3O4
reactant | bromoacetyl bromide | 28.7 g | BrCC(=O)Br | C2H2Br2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-methoxycarbonylamino-2-nitrophenyl)-2-bromoacetamide | 30 g | COC(=O)NC1=CC(=C(C=C1)NC(CBr)=O)[N+](=O)[O-] | C10H10BrN3O5
